US20010011090A1
4-Methyl-3-(2-thienyl)-5-trifluoromethyl-1H-pyrazole was allowed to react with an n-butyl lithium-n-hexane solution (1.6 M) . Further, ethyl chloroformate was added at −50° C. or below. After stirring at −50° C. or below for 30 minutes, it was subjected to purification in the usual way to give a yellow oil. By hydrolyzing this in the usual way, 5-(4-methyl-5-trifluoromethyl-1H-pyrazol-3-yl)thiophene-2-carboxylic acid was obtained as colorless powder crystals.

reactant | 4-Methyl-3-(2-thienyl)-5-trifluoromethyl-1H-pyrazole | CC=1C(=NNC1C(F)(F)F)C=1SC=CC1 | C9H7F3N2S
reactant | n-butyl lithium-n-hexane | 1.6 M | CCCCCC.C(CCC)[Li]
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | 5-(4-methyl-5-trifluoromethyl-1H-pyrazol-3-yl)thiophene-2-carboxylic acid | CC=1C(=NNC1C(F)(F)F)C1=CC=C(S1)C(=O)O | C10H7F3N2O2S
